US05248825
Step c: 1-Phenyl-3-[3-(4-(dimethylamino)benzyloxy)phenyl]-2-propyne-1-one
Place lithium hexamethyldisilazane (2 mL of a 1M solution in tetrahydrofuran, 2 mmol) and tetrahydrofuran (8 mL) under an argon atmosphere and cool to 0° C. Add a solution of 3-(4-(dimethylamino)benzyloxy)phenylacetylene (0.51 g, 2 mmol) in tetrahydrofuran and stir the solution for 45 minutes at 0° C. Add N-methoxy-N-methylbenzamide (0.4 g, 2.4 mmol), remove the cooling bath and stir at room temperature for 1 hour. Partition the mixture between ethyl ether and water, separate the organic phase and dry (MgSO4). Filter and evaporate the solvent in vacuo to yield an oil. Filter through silica gel and elute with 10% ethyl acetate/hexane to yield a crude solid. Purify by silica gel chromatography to give the title compound.

reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | 3-(4-(dimethylamino)benzyloxy)phenylacetylene | 2 mmol, 0.51 g | CN(C1=CC=C(COC=2C=C(C=CC2)C#C)C=C1)C | C17H17NO
reactant | N-methoxy-N-methylbenzamide | 2.4 mmol, 0.4 g | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 1-Phenyl-3-[3-(4-(dimethylamino)benzyloxy)phenyl]-2-propyne-1-one | C1(=CC=CC=C1)C(C#CC1=CC(=CC=C1)OCC1=CC=C(C=C1)N(C)C)=O | C24H21NO2
